US06610853B1
To a solution obtained by dissolving 3-methoxy-2-methyl-pyridine-N-oxide (1.57 g, 11.3 mmol) in 30 ml of dichloromethane were added cyanotrimethylsilane (1.12 g, 11.3 mmol) and dimethylcarbamoyl chloride (1.21 g, 11.3 mmol), followed by stirring at room temperature for 9 days. The reaction solution was washed with 10% sodium carbonate aqueous solution and then with water. The organic layer was dried with sodium sulfate and concentrated to remove the solvent, by which 0.198 g (percent yield: 11.8%) of 2-cyano-5-methoxy-6-methylpyridine was obtained.

reactant | 3-methoxy-2-methyl-pyridine-N-oxide | 11.3 mmol, 1.57 g | COC=1C(=[N+](C=CC1)[O-])C | C7H9NO2
reactant | cyanotrimethylsilane | 11.3 mmol, 1.12 g | C(#N)[Si](C)(C)C | C4H9NSi
reactant | dimethylcarbamoyl chloride | 11.3 mmol, 1.21 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-cyano-5-methoxy-6-methylpyridine | 0.198 g, yield: 11.8% | C(#N)C1=NC(=C(C=C1)OC)C | C8H8N2O
